US04025505
The mixture of 10.0 g of N-(4-nitro-o-tolyl)-4-fluorophthalimide, 500 ml of ethyl acetate and 5 g of Raney nickel is hydrogenated at 3.1 atm. and room temperature until the hydrogen uptake ceases. It is filtered, evaporated, and the residue recrystallized from ethanol, to yield the N-(4-amino-o-tolyl)-4-fluorophthalimide, melting at 180°-182°.

reactant | N-(4-nitro-o-tolyl)-4-fluorophthalimide | 10.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)F)=O | C15H9FN2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-fluorophthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)F)=O | C15H11FN2O2
